US06936619B2
1-tert-Butyl 2-ethyl (2R,4R)-4-hydroxy-1,2-pyrrolidinedicarboxylate
Triethylamine (0.27 ml, 2.05 mmol) followed by di-tert-butyl dicarbonate (223 mg, 1.02 mmol) were added to a solution of ethyl (2R,4R)-4-hydroxy-2-pyrrolidinecarboxylate hydrochloride (J. Org. Chem. 1990; 1684) (200 mg, 1.02 mmol) in 1,4-dioxane (5 ml) and water (5 ml), and the reaction stirred at room temperature for 4 hours. The mixture was extracted with ethyl acetate (50 ml), and the organic solution washed sequentially with 0.25M hydrochloric acid (50 ml), water (50 ml) and brine (50 ml). The solution was then dried over magnesium sulphate and evaporated under reduced pressure to afford the title compound (110 mg).

reactant | Triethylamine | 2.05 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.02 mmol, 223 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl (2R,4R)-4-hydroxy-2-pyrrolidinecarboxylate hydrochloride | 1.02 mmol, 200 mg | Cl.O[C@@H]1C[C@@H](NC1)C(=O)OCC
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 1-tert-Butyl 2-ethyl (2R,4R)-4-hydroxy-1,2-pyrrolidinedicarboxylate | 110 mg | O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC | C12H21NO5
